US09278968B2
Under a nitrogen gas flow, to a mixture of 9.89 g of tert-butyl (4R)-2,2,4-trimethyl-4-(2H-tetrazol-5-yl)-1,3-oxazolidine-3-carboxylate, 11 g of potassium carbonate, and 200 ml of acetonitrile was added dropwise 7.5 ml of 2,2-difluoro-2-(fluorosulfonyl)acetic acid under ice-cooling, followed by warming to room temperature and stirring for 1 hour. The reaction mixture was added to a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 7.59 g of tert-butyl (4R)-4-[2-(difluoromethyl)-2H-tetrazol-5-yl]-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl (4R)-2,2,4-trimethyl-4-(2H-tetrazol-5-yl)-1,3-oxazolidine-3-carboxylate | 9.89 g | CC1(OC[C@](N1C(=O)OC(C)(C)C)(C=1N=NNN1)C)C | C12H21N5O3
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 7.5 ml | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | tert-butyl (4R)-4-[2-(difluoromethyl)-2H-tetrazol-5-yl]-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 7.59 g | FC(N1N=C(N=N1)[C@]1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C)F | C13H21F2N5O3
